US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2-phenoxypropionyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxypropanamide as a white powder, m.p. 85.0-87.5° C. 1H NMR (300 MHz, DMSO-d6) δ8.15 (s, 1H), 8.07 (t, J=6.0 Hz, 1H), 8.00 (d, J=8.4 Hz, 1H), 7.62 (dd, J=8.4, 1.2 Hz, 1H), 7.43 (dt, J=7.5, 1.2 Hz, 1H), 7.28-7.16 (m, 3H), 6.91-6.81 (m, 3H), 6.57 (s, 2H), 4.62-4.53 (m, 3H), 3.10 (q, J=6.9 Hz, 2H), 1.76 (quintet, J=7.1 Hz, 2H), 1.43 (quintet, J=7.1 Hz, 2H), 1.33 (d, J=6.6 Hz, 3H); MS (EI) m/e 403.2005 (403.2008 calcd for C23H25N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2-phenoxypropionyl chloride | O(C1=CC=CC=C1)C(C(=O)Cl)C | C9H9ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxypropanamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C(C)OC2=CC=CC=C2)=O | C23H25N5O2
